US08440834B2
Step 3: 4-Amino-3-cyclopropylmethoxy-benzoic acid methyl ester
3-Cyclopropylmethoxy-4-nitro-benzoic acid methyl ester (12.7 g) was dissolved in MeOH (100 ml) and EtOAc (100 ml); 10% Pd/C (1.0 g, suspended in 20 ml of water) was added, and the mixture is hydrogenated in a Parr apparatus (H2: 20 psi) for 5 hours. 37% HCl was added (10 ml), and hydrogenation was continued for additional 2 hours to obtain complete conversion. The catalyst was filtered over a celite pad, the mixture was diluted with EtOAc (200 ml) and washed with an aqueous saturated solution of NaHCO3 (2×100 ml). The organic layer was dried over Na2SO4 and the solvent was removed by evaporation to yield 10.7 g of the desired intermediate.

reactant | 3-Cyclopropylmethoxy-4-nitro-benzoic acid methyl ester | 12.7 g | COC(C1=CC(=C(C=C1)[N+](=O)[O-])OCC1CC1)=O | C12H13NO5
reactant | HCl | Cl | ClH
solvent | MeOH | 100 ml | CO | CH4O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 20 ml, 1.0 g | [Pd] | Pd
product | 4-Amino-3-cyclopropylmethoxy-benzoic acid methyl ester | 10.7 g | COC(C1=CC(=C(C=C1)N)OCC1CC1)=O | C12H15NO3
